US08034812B2
Production of 1,3-dimethyl-N-[3-({2-[(tetrahydro-2H-pyran-4-ylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1H-pyrazole-5-carboxamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]tetrahydro-2H-pyran-4-carboxamide (200 mg, 0.57 mmol), triethylamine (237 mL, 1.70 mmol), 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (180 mg, 1.13 mmol) and tetrahydrofuran (6.0 mL) as starting materials and in the same manner as in Example 96, the title compound (73 mg, 27%) was obtained as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]tetrahydro-2H-pyran-4-carboxamide | 0.57 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CCOCC3)C=CC1 | C18H19N5O3
reactant | triethylamine | 1.70 mmol, 237 mL | C(C)N(CC)CC | C6H15N
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 1.13 mmol, 180 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
product | 1,3-dimethyl-N-[3-({2-[(tetrahydro-2H-pyran-4-ylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1H-pyrazole-5-carboxamide | 73 mg, 27% | CN1N=C(C=C1C(=O)NC1=CC(=CC=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CCOCC2)C | C24H25N7O4
